US08471005B2
Analogous to Example 1562a, 2-Tributylstannanyl-pyrimidine (0.761 g, 2.06 mmol) and 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.224 g, 0.916 mmol) were reacted to afford 2-Methylsulfanyl-7-pyrimidin-2-yl-pyrrolo[2,1-f][1,2,4]triazine (46 mg, 20%). 1H-NMR (DMSO-d6): 9.14 (s, 1H), 8.95 (d, 2H, J=4.94 Hz), 7.58 (m, 1H), 7.44 (t, 1H, J=4.83 Hz), 7.10 (d, 1H, J=4.83 Hz), 2.59 (s, 3H).

reactant | 2-Tributylstannanyl-pyrimidine | 2.06 mmol, 0.761 g | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.916 mmol, 0.224 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
product | 2-Methylsulfanyl-7-pyrimidin-2-yl-pyrrolo[2,1-f][1,2,4]triazine | 46 mg, 20% | CSC1=NN2C(C=N1)=CC=C2C2=NC=CC=N2 | C11H9N5S
